US05703110
Ethyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-ethoxybenzimidazole-7-carboxylate
To a solution of ethyl 2-chloro-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylate (1.0 g) in ethanol (30 ml) was added NaOEt (0.17 g) and the mixture was heated under reflux for 1 hour. The reaction mixture was concentrated to dryness. The resultant residue was dissolved in ethyl acetate and the solution was washed with water, and then dried. After evaporation of the solvent, the residue was purified by column chromatography on silica gel to give the title compound as colorless crystals (0.37 g, 70%).

reactant | ethyl 2-chloro-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-7-carboxylate | 1.0 g | ClC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)C(=O)OCC | C24H18ClN3O2
reactant | NaOEt | 0.17 g | CC[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Ethyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-ethoxybenzimidazole-7-carboxylate | 0.37 g, 70% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OCC)OCC | C26H23N3O3
